US05223516
N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-tryptophan, isomer A
A stirred suspension of L-tryptophan (4.08 g., 20 mmol.) in 50 mL of dry acetonitrile under argon was cooled to 0°-5° C. and bis(trimethylsilyl)trifluoroacetamide (5.3 mL, 20 mmol.) was added. The reaction mixture was allowed to stir and warm to room temperature. After 3 hours, the solution was cooled to 5° C. and a solution of 2-trifluoromethyl-3-acetylthiopropionyl chloride (4.69 g., 20 mmol) in 7 mL of acetonitrile was gradually added over 45 minutes. The reaction mixture was allowed to stir overnight, gradually warming to room temperature. The solvent was evaporated and the yellow oily residue was partitioned between ethyl acetate (50 mL) and water (35 mL). The aqueous phase was further extracted with ethyl acetate (3×50 mL), and the combined ethyl acetate extract was washed with brine, dried (MgSO4) and evaporated to 14.15 g. of a yellow oily residue. A 12.25 g. portion of the product was flash chromatographed on silica gel (120:1 silica gel to compound) using ethyl acetate:hexanes:acetic acid, 150:100:1 to give 1.9 g. of the faster eluting diastereomer (isomer A), 4.2 g. of both diastereomers, and 1.5 g. of the slower eluting diastereomer (isomer B). Further elution with ethyl acetate:hexanes:acetic acid, 200:100:1 gave an additional 170 mg. of isomer B. The mixed fractions were rechromatographed using the same conditions to give 1.65 g. of isomer A and 1.76 g. of isomer B. The 1.9 g. and 1.65 g. portions of isomer A were combined and recrystallized from toluene to give 2.8 g. of off-white crystalline solid. An additional 360 mg. of isomer A (from flash chromatography of 1.5 g. of the crude product) was recrystallized from toluene to give 260 mg. of white crystalline solid; the total yield of title isomer A compound was 3.06 g.; m.p. 140°-143° C., TLC Rf =0.46 (300:100:1 ethyl acetate:hexanes:acetic acid), [α]D =-96.0° (c=1.00, methanol).

reactant | L-tryptophan | 20 mmol, 4.08 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | bis(trimethylsilyl)trifluoroacetamide | 20 mmol, 5.3 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | 2-trifluoromethyl-3-acetylthiopropionyl chloride | 20 mmol, 4.69 g | FC(C(C(=S)Cl)CC(C)=O)(F)F | C6H6ClF3OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-tryptophan | C(C)(=O)SCC(C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(F)(F)F | C17H17F3N2O4S
